US04218448
To a stirred solution of 343 g (1.25 mole) of α,α-bis(trifluoromethyl)-2,3-dihydro-1H-indole-5-methanol in 1880 ml of dry tetrahydrofuran cooled in an ice bath is added dropwise 106 g (1.26 mole) of diketene. The solution is allowed to warm to room temperature for 16 hours and then is refluxed for 30 minutes. The solvent is evaporated to give 463 g (100%) of crude α,α-bis(trifluoromethyl)-1-(1,3-dioxobutyl)-2,3-dihydro-1H-indole-5-methanol, m.p. 150°-151°.

reactant | α,α-bis(trifluoromethyl)-2,3-dihydro-1H-indole-5-methanol | 1.25 mole, 343 g | FC(C(O)(C=1C=C2CCNC2=CC1)C(F)(F)F)(F)F | C11H9F6NO
reactant | diketene | 1.26 mole, 106 g | C=C1CC(=O)O1 | C4H4O2
solvent | tetrahydrofuran | 1880 ml | O1CCCC1 | C4H8O
product | α,α-bis(trifluoromethyl)-1-(1,3-dioxobutyl)-2,3-dihydro-1H-indole-5-methanol | 463 g, 100% | FC(C(O)(C=1C=C2CCN(C2=CC1)C(CC(C)=O)=O)C(F)(F)F)(F)F | C15H13F6NO3
